*** Extracted spice netlist generated from MAX ***

.SUBCKT MMI_XOR2C in0 in1 out
C_1 out gnd 2.88555fF
C_2 net_1 gnd 4.25662fF
C_3 net_2 gnd 3.7697fF
C_4 in1 gnd 4.00745fF
C_5 vdd gnd 5.92061fF
C_6 in0 gnd 3.36392fF
C_7 gnd gnd 5.28647fF
C_8 net_5 gnd 1.21919fF
Mp_1 out net_1 net_2 vdd p W=2.455U L=0.18U AD=0.8347P PD=3.95333U 
+ AS=0.720133P PS=3.31444U
Mp_2 net_2 net_1 out vdd p W=2.455U L=0.18U AD=0.720133P PD=3.31444U 
+ AS=0.8347P PS=3.95333U
Mp_3 out net_1 net_2 vdd p W=2.455U L=0.18U AD=0.8347P PD=3.95333U 
+ AS=0.720133P PS=3.31444U
Mp_4 net_2 in1 vdd vdd p W=2.455U L=0.18U AD=0.720133P PD=3.31444U 
+ AS=0.765904P PS=3.63383U
Mp_5 vdd in1 net_2 vdd p W=2.455U L=0.18U AD=0.765904P PD=3.63383U 
+ AS=0.720133P PS=3.31444U
Mp_6 net_2 in1 vdd vdd p W=2.455U L=0.18U AD=0.720133P PD=3.31444U 
+ AS=0.765904P PS=3.63383U
Mp_7 vdd in0 net_2 vdd p W=2.455U L=0.18U AD=0.765904P PD=3.63383U 
+ AS=0.720133P PS=3.31444U
Mp_8 net_2 in0 vdd vdd p W=2.455U L=0.18U AD=0.720133P PD=3.31444U 
+ AS=0.765904P PS=3.63383U
Mp_9 vdd in0 net_2 vdd p W=2.455U L=0.18U AD=0.765904P PD=3.63383U 
+ AS=0.720133P PS=3.31444U
Mp_10 vdd in1 net_3 vdd p W=1.84U L=0.18U AD=0.574038P PD=2.72352U 
+ AS=0.3588P PS=2.23U
Mp_11 net_3 in0 net_1 vdd p W=1.84U L=0.18U AD=0.3588P PD=2.23U AS=0.4968P 
+ PS=2.38U
Mp_12 net_1 in0 net_4 vdd p W=1.84U L=0.18U AD=0.4968P PD=2.38U AS=0.3588P 
+ PS=2.23U
Mp_13 net_4 in1 vdd vdd p W=1.84U L=0.18U AD=0.3588P PD=2.23U AS=0.574038P 
+ PS=2.72352U
Mn_1 out net_1 gnd gnd n W=0.92U L=0.18U AD=0.297453P PD=1.81831U 
+ AS=0.328911P PS=1.93381U
Mn_2 gnd net_1 out gnd n W=0.92U L=0.18U AD=0.328911P PD=1.93381U 
+ AS=0.297453P PS=1.81831U
Mn_3 out in1 net_5 gnd n W=1.225U L=0.18U AD=0.396065P PD=2.42112U 
+ AS=0.33075P PS=1.765U
Mn_4 net_5 in1 out gnd n W=1.225U L=0.18U AD=0.33075P PD=1.765U 
+ AS=0.396065P PS=2.42112U
Mn_5 out in1 net_5 gnd n W=1.225U L=0.18U AD=0.396065P PD=2.42112U 
+ AS=0.33075P PS=1.765U
Mn_6 net_5 in0 gnd gnd n W=1.225U L=0.18U AD=0.33075P PD=1.765U 
+ AS=0.437952P PS=2.57492U
Mn_7 gnd in0 net_5 gnd n W=1.225U L=0.18U AD=0.437952P PD=2.57492U 
+ AS=0.33075P PS=1.765U
Mn_8 net_5 in0 gnd gnd n W=1.225U L=0.18U AD=0.33075P PD=1.765U 
+ AS=0.437952P PS=2.57492U
Mn_9 gnd in1 net_1 gnd n W=0.92U L=0.18U AD=0.328911P PD=1.93381U 
+ AS=0.2668P PS=1.5U
Mn_10 net_1 in0 gnd gnd n W=0.92U L=0.18U AD=0.2668P PD=1.5U AS=0.328911P 
+ PS=1.93381U
.ENDS	$ MMI_XOR2C

.GLOBAL gnd vdd

